US07534788B2
Step C: 5-Chloro-6-(1-cyclobutyl-piperidin-4-yloxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester
The above prepared 5-chloro-3-methyl-6-(piperidin-4-yloxy)-benzofuran-2-carboxylic acid ethyl ester (1.35 g, 3.32 mmol) was dissolved in 45 mL of CH2Cl2 and treated successively with cyclobutanone (0.506 g, 2 eq.), acetic acid (0.413 mL, 2 eq.) and sodium triacetoxyborohydride (1.529 g, 2 eq.), and the mixture then kept at ambient temperature for 5 h. Pouring onto crashed ice/NaHCO3, five fold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by followed by flash chromatography (SiO2, NEt3/AcOEt=2/98) generated 1.190 g of the title compound as white crystals.

reactant | 5-chloro-3-methyl-6-(piperidin-4-yloxy)-benzofuran-2-carboxylic acid ethyl ester | 3.32 mmol, 1.35 g | C(C)OC(=O)C=1OC2=C(C1C)C=C(C(=C2)OC2CCNCC2)Cl | C17H20ClNO4
reactant | cyclobutanone | 0.506 g, 2 eq. | C1(CCC1)=O | C4H6O
reactant | acetic acid | 0.413 mL, 2 eq. | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.529 g, 2 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-6-(1-cyclobutyl-piperidin-4-yloxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1C)C=C(C(=C2)OC2CCN(CC2)C2CCC2)Cl | C21H26ClNO4
